US07994166B2
In a 3 neck flask equipped with a mechanical stirrer, thermocouple and addition funnel in an ambient temperature water bath was added ethanolamine (330 mL, 5.47 mol). (R)-2-(3,4-dichlorophenyl)oxirane (184 g, 976 mmol) in isopropanol (75 mL) was added dropwise over 1 h. Reaction temperature stayed <30° C. during addition. The reaction mixture was stirred at ambient temperature for 14 h, diluted with 2000 mL of ice water and extracted three times with 1000 mL of ethyl acetate. The combined organic phases were dried over MgSO4, filtered over Celite and concentrated in vacuo affording (1R)-1-(3,4-dichlorophenyl)-2-(2-hydroxyethylamino)-ethanol (244 g, 100%) as a white semi-solid. 1H-NMR (400 MHz, CDCl3) δ 7.58-7.54 (m, 2H), 7.35-7.32 (m, 1H), 5.51 (s, 1H), 4.64 (dd, J=5.0, 7.2 Hz, 1H), 4.49 (s, 1H), 3.43 (dd, J=5.0, 10.4 Hz, 2H), 2.69-2.50 (m, 4H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=250.3; tR=0.84 min.

reactant | ethanolamine | 5.47 mol, 330 mL | C(O)CN | C2H7NO
reactant | (R)-2-(3,4-dichlorophenyl)oxirane | 976 mmol, 184 g | ClC=1C=C(C=CC1Cl)[C@H]1OC1 | C8H6Cl2O
solvent | isopropanol | 75 mL | C(C)(C)O | C3H8O
product | (1R)-1-(3,4-dichlorophenyl)-2-(2-hydroxyethylamino)-ethanol | 244 g, 100% | ClC=1C=C(C=CC1Cl)[C@H](CNCCO)O | C10H13Cl2NO2
